US07241760B2
3-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-methyl-pyridazine
The title compound, MS: m/e=309.3 (M+H+), was prepared in accordance with the general method of example 1 from 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole and 3-chloro-6-methyl-pyridazine.

reactant | 4-(3-chloro-phenylethynyl)-2-methyl-1H-imidazole | ClC=1C=C(C=CC1)C#CC=1N=C(NC1)C | C12H9ClN2
reactant | 3-chloro-6-methyl-pyridazine | ClC=1N=NC(=CC1)C | C5H5ClN2
product | 3-[4-(3-Chloro-phenylethynyl)-2-methyl-imidazol-1-yl]-6-methyl-pyridazine | ClC=1C=C(C=CC1)C#CC=1N=C(N(C1)C=1N=NC(=CC1)C)C | C17H13ClN4
